US07696229B2
2. Synthesis of 3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazine-7-sulfonyl chloride
Into a 500 mL 3-necked round bottom flask was placed a solution of 7-amino-2H-benzo[b][1,4]oxazin-3(4H)-one (5 g, 28.96 mmol) in CH3CN (200 mL). To the above was added acetic acid (24.9 g) dropwise with stirring, while cooling to a temperature of 0° C. To the above was added HCl (16.2 g) dropwise with stirring, while cooling to a temperature of 0° C. This was followed by the addition of a solution of NaNO2 (2.52 g, 36.52 mmol) in H2O (2 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. The resulting solution was allowed to react, with stirring, for 30 minutes while the temperature was maintained at 0-5° C. in a bath of H2O/ice. This was followed by and maintained with an atmosphere of sulfur dioxide, the resulting solution was allowed to react, with stirring, for an additional 2 hours while the temperature was maintained at 0-5° C. in a bath of H2O/ice. To the mixture was added CuCl2.2H2O (5.11 g, 29.97 mmol), while cooling to a temperature of 0-5° C. The resulting solution was allowed to react, with stirring, maintained with an atmosphere of sulfur dioxide for an additional 2 hours while the temperature was maintained at 0-5° C. in a bath of H2O/ice. The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at room temperature. The reaction progress was monitored by TLC (petroleum ether/ethyl acetate=1:1). The reaction mixture was then quenched by the adding 200 mL of H2O/ice. The resulting solution was extracted one time with 500 mL of ethyl acetate and the organic layers combined. Then the mixture was washed 3 times with 200 mL of brine. The mixture was dried over MgSO4 and concentrated by evaporation under vacuum using a rotary evaporator. The residue was dissolved in 100 mL of CH2Cl2. A filtration was performed. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. This resulted in 0.9 g (11%) of 3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazine-7-sulfonyl chloride as a yellow solid. 1HNMR (400 MHz, CDCl3) δ 4.73 (s, 2H), 7.00 (m, 1H), 7.28 (d, 1H), 7.71 (d, 1H), 8.27 (s, 1H).

reactant | 7-amino-2H-benzo[b][1,4]oxazin-3(4H)-one | 28.96 mmol, 5 g | NC=1C=CC2=C(OCC(N2)=O)C1 | C8H8N2O2
reactant | HCl | 16.2 g | Cl | ClH
reactant | NaNO2 | 36.52 mmol, 2.52 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | CH3CN | 200 mL | CC#N | C2H3N
solvent | H2O | 2 mL | O | H2O
solvent | acetic acid | 24.9 g | C(C)(=O)O | C2H4O2
product | 3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazine-7-sulfonyl chloride | O=C1NC2=C(OC1)C=C(C=C2)S(=O)(=O)Cl | C8H6ClNO4S
